US07211572B2
9-Benzyloxy-2-(3-chlorobenzyl)-7-(2,2-dimethylbutyryl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (55 mg) was dissolved in trifluoroacetic acid (0.5 ml) and the mixture was stirred at room temperature for 30 min. The solvent was evaporated and toluene was added, and the mixture was concentrated, which operations were performed twice. Crystallization from chloroform-diisopropyl ether gave 2-(3-chlorobenzyl)-7-(2,2-dimethylbutyryl)-9-hydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (32 mg).

reactant | 9-Benzyloxy-2-(3-chlorobenzyl)-7-(2,2-dimethylbutyryl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 55 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=CC=C2)Cl)=O)C(C(CC)(C)C)=O)=O | C28H29ClN2O4
solvent | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(3-chlorobenzyl)-7-(2,2-dimethylbutyryl)-9-hydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 32 mg | ClC=1C=C(CN2C(C=3N(CC2)C=C(C(C3O)=O)C(C(CC)(C)C)=O)=O)C=CC1 | C21H23ClN2O4
